data/polar.json
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:3][O:7][c:8]1[cH:34][cH:15][c:13]([CH:24]=[C:23]2[CH:25]=[C:9]([Br:18])[C:11](=[O:17])[C:10]([Br:19])=[CH:26]2)[cH:16][cH:35]1.[cH:1]1[c:29]([CH:12]=[C:20]2[S:5][c:27]3[cH:21][cH:6][cH:14][cH:4][c:22]3[N:33]2[CH3:28])[cH:2][cH:31][cH:32][cH:30]1>>[cH:1]1[c:29]([CH:12]([c:20]2[s:5][c:27]3[cH:21][cH:6][cH:14][cH:4][c:22]3[n+:33]2[CH3:28])[CH:24]([c:13]2[cH:15][cH:34][c:8]([O:7][CH3:3])[cH:35][cH:16]2)[c:23]2[cH:25][c:9]([Br:18])[c:11]([O-:17])[c:10]([Br:19])[cH:26]2)[cH:2][cH:31][cH:32][cH:30]1", "epd": [["LP-/Pi+", [33], [20, 33]], ["Pi-/Sigma+", [12, 20], [12, 24]], ["Pi-/Pi+", [24, 23], [23, 25]], ["Pi-/Pi+", [25, 9], [9, 11]], ["Pi-/LP+", [11, 17], [17]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[CH:1]1=[CH:7][c:8]2[cH:12][cH:11][cH:24][cH:10][c:13]2[CH:25]1[Na:15].[n+:2]1([CH3:14])[c:3]2[cH:16][cH:20][cH:18][cH:5][c:22]2[cH:9][c:23]2[c:4]1[cH:17][cH:21][cH:19][cH:6]2>>[CH:1]1=[CH:7][c:8]2[cH:12][cH:11][cH:24][cH:10][c:13]2[CH:25]1[CH:9]1[c:22]2[c:3]([cH:16][cH:20][cH:18][cH:5]2)[N:2]([CH3:14])[c:4]2[cH:17][cH:21][cH:19][cH:6][c:23]21.[Na+:15]", "epd": [["Sigma-/Sigma+", [25, 15], [25, 9]], ["Pi-/Pi+", [9, 22], [22, 3]], ["Pi-/LP+", [3, 2], [2]]]}
{"reaction_name": "Ester hydrolysis", "rsmi": "[CH3:1][O:5][C:6](=[O:2])[CH3:4].[O-:3][H:7]>>[CH3:1][O:5][H:7].[O:2]=[C:6]([O-:3])[CH3:4]", "epd": [["LP-/Sigma+", [3], [3, 6]], ["Pi-/LP+", [2, 6], [2]], ["LP-/Pi+", [2], [2, 6]], ["Sigma-/LP+", [5, 6], [5]], ["LP-/Sigma+", [5], [5, 7]], ["Sigma-/LP+", [3, 7], [3]]]}
{"reaction_name": "Halide-to-amine displacement", "rsmi": "[Br:1][CH2:2][CH3:3].[NH2:4][H:6].[NH3:5]>>[Br-:1].[CH2:2]([CH3:3])[NH2:4].[NH3+:5][H:6]", "epd": [["LP-/Sigma+", [4], [2, 4]], ["Sigma-/LP+", [1, 2], [1]], ["LP-/Sigma+", [5], [5, 6]], ["Sigma-/LP+", [4, 6], [4]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:1]1[cH:19][cH:29][c:7]([S:34](=[O:10])(=[O:11])[CH:21]=[C:31]2[CH:4]=[CH:26][C:32](=[N+:28]([O-:22])[O-:23])[CH:27]=[CH:5]2)[cH:30][cH:20]1.[n:2]1[n:3][c:25]2[n:9]([cH:13][c:24]([N+:8](=[O:6])[O-:17])[cH:16][c:14]2[N+:15](=[O:12])[O-:33])[n:18]1>>[cH:1]1[cH:19][cH:29][c:7]([S:34](=[O:10])(=[O:11])[CH:21]([CH:13]2[n:9]3[n:18][n:2][n:3][c:25]3[C:14]([N+:15](=[O:12])[O-:33])=[CH:16][C:24]2=[N+:8]([O-:6])[O-:17])[c:31]2[cH:4][cH:26][c:32]([N+:28](=[O:22])[O-:23])[cH:27][cH:5]2)[cH:30][cH:20]1", "epd": [["LP-/Pi+", [22], [28, 22]], ["Pi-/Pi+", [32, 28], [27, 32]], ["Pi-/Pi+", [5, 27], [31, 5]], ["Pi-/Sigma+", [21, 31], [21, 13]], ["Pi-/Pi+", [13, 24], [24, 8]], ["Pi-/LP+", [8, 6], [6]]]}
{"reaction_name": "σ-Bond carbon transfer to a preformed localized carbocation", "rsmi": "[c:1]1([B-:5]([c:2]2[cH:10][cH:6][c:36]([CH3:28])[o:21]2)([c:3]2[cH:11][cH:7][c:37]([CH3:29])[o:18]2)[c:4]2[cH:12][cH:8][c:38]([CH3:30])[o:19]2)[cH:13][cH:9][c:39]([CH3:31])[o:20]1.[cH:14]1[c:22]([CH+:42][c:23]2[cH:15][c:26]([F:34])[cH:41][c:27]([F:35])[cH:16]2)[cH:17][c:24]([F:32])[cH:40][c:25]1[F:33]>>[c:1]1([CH:42]([c:22]2[cH:14][c:25]([F:33])[cH:40][c:24]([F:32])[cH:17]2)[c:23]2[cH:15][c:26]([F:34])[cH:41][c:27]([F:35])[cH:16]2)[cH:13][cH:9][c:39]([CH3:31])[o:20]1.[c:2]1([B:5]([c:3]2[cH:11][cH:7][c:37]([CH3:29])[o:18]2)[c:4]2[cH:12][cH:8][c:38]([CH3:30])[o:19]2)[cH:10][cH:6][c:36]([CH3:28])[o:21]1", "epd": [["Sigma-/Sigma+", [1, 5], [1, 42]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:9]1[cH:3][n:7][c:12]2[c:19]([n+:5]([O-:4])[o:11][n:24]2)[cH:20]1)(=[O:21])[O-:22].[cH:2]1[cH:13][cH:8][c:17]2[c:6]([cH:23]1)[CH:25]([Zn-:16]([Cl:14])[Cl:15])[CH:18]=[CH:10]2>>[Cl:14][Zn:16][Cl:15].[N+:1](=[C:9]1[CH:3]=[N:7][c:12]2[c:19]([n+:5]([O-:4])[o:11][n:24]2)[CH:20]1[CH:25]1[c:6]2[c:17]([cH:8][cH:13][cH:2][cH:23]2)[CH:10]=[CH:18]1)([O-:21])[O-:22]", "epd": [["Sigma-/Sigma+", [25, 16], [25, 20]], ["Pi-/Pi+", [20, 9], [9, 1]], ["Pi-/LP+", [1, 21], [21]]]}
{"reaction_name": "Michael addition", "rsmi": "[O:2]=[N+:28]([O-:8])[c:22]1[cH:3][cH:5][c:14]([CH:25]=[CH:17][N+:19]([O-:27])=[O:29])[cH:6][cH:4]1.[c:1]1([S:18](=[O:23])(=[O:24])[CH-:30][c:11]2[cH:9][cH:20][cH:26][cH:21][cH:10]2)[cH:12][cH:15][cH:7][cH:16][cH:13]1>>[c:1]1([S:18](=[O:23])(=[O:24])[CH:30]([c:11]2[cH:9][cH:20][cH:26][cH:21][cH:10]2)[CH:25]([c:14]2[cH:5][cH:3][c:22]([N+:28](=[O:2])[O-:8])[cH:4][cH:6]2)[CH:17]=[N+:19]([O-:27])[O-:29])[cH:12][cH:15][cH:7][cH:16][cH:13]1", "epd": [["LP-/Sigma+", [30], [30, 25]], ["Pi-/Pi+", [25, 17], [17, 19]], ["Pi-/LP+", [19, 29], [29]]]}
